US08084484B2
Synthesis of methyl-2-(benzo[d]oxazol-5-yl)acetate
Methyl-2-(3-amino-4-hydroxyphenyl)acetate (1.39 g, 7.67 mmol) was combined at RT with triethyl orthoformate (10 ml). The reaction mixture was heated to reflux for 12 h and then cooled to RT. Water (70 mL) was added thereto and the reaction mixture was extracted with EA. The combined organic phases were dried over MgSO4 and filtered. The solvent was removed under a vacuum and the residue purified by means of column chromatography (n-hexane/EA=2:1).

reactant | Methyl-2-(3-amino-4-hydroxyphenyl)acetate | 7.67 mmol, 1.39 g | COC(CC1=CC(=C(C=C1)O)N)=O | C9H11NO3
reactant | triethyl orthoformate | 10 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | Water | 70 mL | O | H2O
product | methyl-2-(benzo[d]oxazol-5-yl)acetate | COC(CC=1C=CC2=C(N=CO2)C1)=O | C10H9NO3
